Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ w/ no known PMH who presents w/
lightheadedness and flu-like symptoms.  For the past week, he 
has
noted sore throat, cough, rhinorrhea, and subjective fevers, and
over the past 24 hours, he had 3 episodes of lightheadedness 
upon
standing with subsequent fall (2 episodes in his bedroom, 1 in
the bathroom).  He states that each episode was precipitated by
standing, and upon standing he felt weak and dizzy, and then
slowly lowered himself to the ground feeling as if he was going
to pass out.  He had no preceding CP, palpitations and states he
had no true syncope, no seizures, no biting of tongue or
incontinence.  This has never happened to him before, and 
usually
his exercise tolerance is excellent, able to walk up to 2 hours
each day without symptoms.  Of note, during one of the falls his
wife was with him and also fell.

Per son: dad has been sick with cough, sneezing, fever, sore
throat. He was supposed to go to the doctor yesterday but it
"fell through". With all the falls, no LOC, doesn't think he hit
his head. Has noticed decreased appetite, poor PO intake, has
been trying to drink as much water as possible. 

In the ED, initial vitals:  98.3 78 107/46 16 97% RA 

CXR:
Retrocardiac opacities can be concerning for pneumonia.

Influenza A: POSITIVE

WBC: 4.2
HGB 14.0
Platelets: 142

130  95  12      AGap=12 
------------< 103 
4.4  23  1.1  

- Pt given:  
2L Normal Saline
Levofloxacin

- Vitals prior to transfer: 98.4  56 128/60 18 93% RA 

On the floor,  patient is resting comfortably. He endorses some
mild discomfort on his R flank, he's not sure whether he hit it
when he fell. Otherwise he has no complaints. ROS negative 
except
per HPI.
 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS:  98.5 PO 95 / 58 64 18 92 Ra 
General: resting comfortably laying flat, appears younger than
stated age, NAD  
HEENT: Sclerae anicteric, MMM, oropharynx dry, dentures in 
place,
EOMI
CV: Regular rate and rhythm, normal S1 + S2
Lungs: scattered rhonchi, no wheezes, unlabored breathing
Abdomen: Soft, non-distended, slight point tenderness on R flank
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities 
 
DISCHARGE PHYSICAL EXAM:
======================
24 HR Data (last updated ___ @ 1553)
    Temp: 98.8 (Tm 98.8), BP: 100/61 (84-109/54-61), HR: 67 
(63-69), RR: 18 (___), O2 sat: 96% (95-98), O2 delivery: RA  
General: resting comfortably laying flat, appears younger than
stated age, NAD  
HEENT: Sclerae anicteric, MMM, oropharynx dry, dentures in 
place,
EOMI
CV: Regular rate and rhythm, normal S1 + S2
Lungs: scattered rhonchi, no wheezes, unlabored breathing
Abdomen: Soft, non-distended, slight point tenderness on R flank
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 01:15PM   GLUCOSE-103* UREA N-12 CREAT-1.1 SODIUM-130* 
POTASSIUM-4.4 CHLORIDE-95* TOTAL CO2-23 ANION GAP-12
___ 01:15PM   estGFR-Using this
___ 01:15PM   OSMOLAL-272*
___ 01:15PM OTHER BODY FLUID  FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE
___ 01:15PM   WBC-4.2 RBC-4.29* HGB-14.0 HCT-40.9 MCV-95 
MCH-32.6* MCHC-34.2 RDW-12.9 RDWSD-45.2
___ 01:15PM   NEUTS-75.2* LYMPHS-15.7* MONOS-8.7 EOS-0.0* 
BASOS-0.2 NUC RBCS-0.5* IM ___ AbsNeut-3.12 AbsLymp-0.65* 
AbsMono-0.36 AbsEos-0.00* AbsBaso-0.01
___ 01:15PM   PLT COUNT-142*

DISCHARGE LABS:
==============
___ 10:45AM BLOOD WBC-3.3* RBC-4.09* Hgb-13.4* Hct-39.7* 
MCV-97 MCH-32.8* MCHC-33.8 RDW-13.2 RDWSD-47.1* Plt ___
___ 10:45AM BLOOD Glucose-116* UreaN-12 Creat-1.0 Na-138 
K-3.5 Cl-101 HCO3-26 AnGap-11
___ 10:45AM BLOOD Calcium-8.5 Phos-2.2* Mg-1.9

IMAGING:
=======
CXR ___:
Retrocardiac opacities can be concerning for pneumonia.
 
Brief Hospital Course:
___ man with no major medical problems presented with 
orthostasis and flu-like illness, found to be influenza A with 
retrocardiac opacities consistent with CAP. The patient was 
started on ceftriaxone/azithromycin and transitioned to 
cefpodoxime/azithromycin with plan to complete a 7-day course. 
He was also given 1L of IVF with resolution of his hypovolemic 
hyponatremia, as well his orthostatic signs and symptoms. While 
in the hospital, the patient also had a mild ___ (0.9 to 1.3) 
that resolved rapidly with IV resuscitation. His discharge 
creatinine was 1.0.

TRANSITIONAL ISSUES:
====================
[ ] Patient should continue cefpodoxime and azithromycin for a 
total of 5 days (last day ___ to complete a course for 
CAP.
[ ] Repeat CXR in 6 weeks to document resolution of pulmonary 
infiltrates.
[ ] Repeat CHEM7 in ___ weeks to document normal sodium and 
normal renal function.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 3 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 3 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community Acquired Pneumonia
Orthostatic Hypotension
Influenza A

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted because you were 
dizzy. As you know, you recently had the influenza virus and you 
developed a lung infection (pneumonia) afterwards. This caused 
some dehydration which caused some dizziness. While you were in 
the hospital, we gave you some IV fluids and started you on 
antibiotics, which you should continue to take until you 
complete a 5-day course (last day is ___. 

Continue to eat and drink well to stay hydrated and ___ 
with your primary care physician ___ ___ weeks of the time of 
discharge.

Wishing you a speedy recovery,
Your ___ Care Team
 
Followup Instructions:
___